US09422281B2
A reaction vial was charged with (S)-1-(7-bromo-3-methyl-2,3-dihydropyrido[2,3-b]pyrazin-4(1H)-yl)ethanone (0.054 g, 0.2 mmol) and N,N-diisopropylethylamine (0.245 mL, 1.40 mmol) was added. Isopropyl chloroformate (1.0 M solution in toluene, 1.00 mL, 1.00 mmol) was added, and the reaction was heated at 50° C. overnight. The reaction was diluted with ethyl acetate (3 mL) and washed with saturated aqueous sodium bicarbonate solution (2 mL). The aqueous layer was separated and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via column chromatography on silica gel (eluting with 20% ethyl acetate-hexane) to afford (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate (0.070 g, 98%) as a colorless oil. MS (ESI, pos. ion) m/z 356, 358 [M+H]+.

reactant | (S)-1-(7-bromo-3-methyl-2,3-dihydropyrido[2,3-b]pyrazin-4(1H)-yl)ethanone | 0.2 mmol, 0.054 g | BrC1=CC2=C(N([C@H](CN2)C)C(C)=O)N=C1 | C10H12BrN3O
reactant | N,N-diisopropylethylamine | 1.40 mmol, 0.245 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Isopropyl chloroformate | 1.00 mmol, 1.0 M, 1.00 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate | 0.070 g, 98% | C(C)(=O)N1C2=C(N(C[C@@H]1C)C(=O)OC(C)C)C=C(C=N2)Br | C14H18BrN3O3
